US07291619B2
1-Boc-4-[2-(4-Methoxycarbonyl-[1,2,3]triazol-1-ylmethyl)-phenyl]-piperazine
1-Boc-4-(2-Azidomethyl-phenyl)-piperazine (0.25 g, 0.79 mmol) was dissolved in deuterated chloroform (3 mL). Methyl propiolate (0.35 mL, 3.9 mmol) was added, and the mixture was heated to reflux for about 4 hours and then cooled to r.t. The mixture was concentrated under reduced pressure and purified using silica chromatography (50% ethyl acetate in hexanes) to give the title compound (0.155 g, 49%) as an oil.

reactant | 1-Boc-4-(2-Azidomethyl-phenyl)-piperazine | 0.79 mmol, 0.25 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN=[N+]=[N-] | C16H23N5O2
reactant | Methyl propiolate | 3.9 mmol, 0.35 mL | C(C#C)(=O)OC | C4H4O2
product | 1-Boc-4-[2-(4-Methoxycarbonyl-[1,2,3]triazol-1-ylmethyl)-phenyl]-piperazine | 0.155 g, 49% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN1N=NC(=C1)C(=O)OC | C20H27N5O4
